US04006147
Pyridine (75 ml) in 500 ml of diethyl ether and 65 ml of thionyl chloride are mixed while being stirred and cooled by an ice-water bath in a flask provided with a mechanical stirrer, a reflux condenser and a dropping funnel. A solution of 220 g of crystalline 2-(1-hydroxy-2,2,2-trichloroethoxy)ethyl methacrylate (m.p. 44-45° C; prepared by the addition of chloral to glycol monomethacrylate) in 500 ml of diethyl ether is slowly added to the mixture during continuous stirring and cooling. After all of the hydroxy compound has been added into the reactor, the reaction mixture is stirred and cooled for further 2 hours. It is then warmed to the temperature 20° C, the precipitated pyridine hydrochloride is filtered off and ether is removed by distillation. The distillation residue is heated in the presence of 20 g of powdered copper to the temperature 80° C at the pressure 15 Torr for 2 hrs and then it is rectified through an effective column. By a repeated fraction distillation, 180 g of 2-(1,2,2,2-tetrachloroethoxy)ethyl methacrylate was obtained, having b.p. 96 - 97° C 0.1 Torr and refractive index nD25 1.4900. Elemental analysis: found C 32.20%, H 3.58%, Cl 47.35%; calculated C 32.46%, H 3.40%, Cl 47.90%.

reactant | Pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-(1-hydroxy-2,2,2-trichloroethoxy)ethyl methacrylate | 220 g | C(C(=C)C)(=O)OCCOC(C(Cl)(Cl)Cl)O | C8H11Cl3O4
reactant | chloral | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | glycol monomethacrylate | CC(=C)C(=O)OCCO | C6H10O3
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | thionyl chloride | 65 ml | S(=O)(Cl)Cl | Cl2OS
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 2-(1,2,2,2-tetrachloroethoxy)ethyl methacrylate | 180 g | C(C(=C)C)(=O)OCCOC(C(Cl)(Cl)Cl)Cl | C8H10Cl4O3
